US03957806
E. 6H-Pyrido[1,2-c][1,3,5]benzoxadiazepine
A mixture of 9.5 g of 2-amino-1-[(o-bromophenoxy)-methyl]pyridinium chloride, 8.3 g of potassium carbonate, 0.4 g of copper-bronze in 150 ml of n-propanol and 25 ml of water under N2, is heated under reflux for 12 hours while stirring. The mixture is filtered hot and the deep yellow filtrate is concentrated to dyrness. The residue is dissolved in 400 ml of ether, the ether solution is washed, dried and the solvent removed to give about 6.4 g of the crude yellow product. This is recrystallized from cyclohexane to give about 3.6 9 of the title product, mp about 125°-127°.

reactant | 2-amino-1-[(o-bromophenoxy)-methyl]pyridinium chloride | 9.5 g | [Cl-].NC1=[N+](C=CC=C1)COC1=C(C=CC=C1)Br
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | n-propanol | 150 ml | C(CC)O | C3H8O
solvent | water | 25 ml | O | H2O
product | 6H-Pyrido[1,2-c][1,3,5]benzoxadiazepine | C1=CC=CC2=C1N=C1N(CO2)C=CC=C1 | C12H10N2O
